* /Users/manoelribeiroalmeida/dev/trit/LTspice/TBUFF.asc
.subckt TBUFF in vcc vee out gnd
R2 vcc N005 10k
Q1 N005 N001 0 0 NPN
R4 N004 N005 100k
R6 out 0 100k
Q2 out N004 vcc 0 PNP
R5 N001 in 10k
R7 N001 0 100k
R9 N002 N003 100k
R11 N003 vee 10k
Q5 N003 N001 0 0 PNP
Q6 out N002 vee 0 NPN
.model NPN NPN
.model PNP PNP
.lib /Users/manoelribeiroalmeida/Library/Application Support/LTspice/lib/cmp/standard.bjt
.backanno
.ends
