* /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.asc
.subckt TNOR a b vcc vee out gnd
XU2 N001 vcc vee out 0 TNOT
XU1 a b vcc vee N001 0 TOR
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TNOT.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.sub
.backanno
.ends
