* /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.asc
.subckt TOR a b vcc vee out gnd
R2 vcc N001 10k
R4 N002 N001 50K
Q2 out N002 vcc 0 PNP
R5 N003 a 10k
R7 N003 0 100k
R1 N004 b 10k
R3 N004 0 100k
Q3 N001 N004 0 0 NPN
R8 N005 N006 100k
R9 N006 vee 10k
Q4 N006 N004 0 0 PNP
Q5 out N005 vee 0 NPN
R6 out 0 100k
Q7 N001 N003 0 0 NPN
Q1 N006 N003 0 0 PNP
.model NPN NPN
.model PNP PNP
.lib /Users/manoelribeiroalmeida/Library/Application Support/LTspice/lib/cmp/standard.bjt
.backanno
.ends