* /Users/manoelribeiroalmeida/dev/trit/LTspice/TXOR.asc
.subckt TXOR a b vcc vee out gnd
XU4 a b vcc vee N002 0 TOR
XU5 a b vcc vee N001 0 TNAND
XU1 N001 N002 vcc vee out 0 TOR
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TNAND.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.sub
.backanno
.ends
